US08604019B2
2-Fluoro-N-[6-methyl-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)thieno[3,2-d]pyrimidin-4-yl]propane-1,3-diamine
The title compound was prepared in analogy to Example 3-1 in Scheme 3 by using 2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylthieno[3,2-d]pyrimidin-4(3H)-one and 2-fluoro-1,3-propanediamine. MS obsd. (ESI+) [(M+H)+] 420, 1H NMR (400 MHz, METHANOL-d4) δ ppm 7.73 (d, J=6.6 Hz, 1H), 7.68 (d, J=6.8 Hz, 1H), 7.39-7.51 (m, 2H), 6.81 (s, 1H), 5.19 (d, J=14.7 Hz, 1H), 4.83 (d, J=9.3 Hz, 1H), 4.69 (br. s., 2H), 4.46 (br. s., 1H), 3.71-3.96 (m, 2H), 3.30-3.48 (m, 2H), 2.80-3.05 (m, 2H), 2.54 (s, 3H).

reactant | 2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylthieno[3,2-d]pyrimidin-4(3H)-one | O=S1CCN(CC2=C1C=CC=C2)C=2NC(C1=C(N2)C=C(S1)C)=O | C16H15N3O2S2
reactant | 2-fluoro-1,3-propanediamine | FC(CN)CN | C3H9FN2
product | 2-Fluoro-N-[6-methyl-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)thieno[3,2-d]pyrimidin-4-yl]propane-1,3-diamine | FC(CNC=1C2=C(N=C(N1)N1CCS(C3=C(C1)C=CC=C3)=O)C=C(S2)C)CN | C19H22FN5OS2
